US05679854
Preparation of (E)-2-(Fluoromethylene)-4-(p-fluorophenyl)butan-1-ol
Cool to 0° C.-10° C. a toluene solution of ethyl 2-(difluoromethyl)-2-carboxy-4-(p-fluorophenyl)butyrate as prepared in Example 4.1. Add water (396 kg) and a 50% by weight aqueous solution of sodium hydroxide. Stir for 30 minutes. Separate the aqueous layer and cool the aqueous layer to 0° C.-5° C. Add tetrahydrofuran (421 kg). Stir for hour at 0° C. and then warm to 25° C. and stir for 3 hours. Separate the aqueous layer. Evaporate the organic layer in vacuo at a temperature of 40° C.-50° C. The evaporation is continued until tetrahydrofuran no longer comes over and then toluene is added. Evaporate in vacuo until there is no longer water visible in the condensate. Concentrate in vacuo to give the title compound as a 80-90% by weight solution in toluene. An analytical sample prepared by evaporation of solvent gave 1H NMR (CDCl3, 300 MHz) δ 1.28 (t, J=7.2Hz 3H), 2.58 (m, 2H), 2.71 (m, 2H) 4.21 (q, J=7.2Hz, 2H), 6.93 (m, 2H), 7.15 (m, 2H), 7.51 (d, J=81.9Hz, 1H).

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl 2-(difluoromethyl)-2-carboxy-4-(p-fluorophenyl)butyrate | FC(C(C(=O)OCC)(CCC1=CC=C(C=C1)F)C(=O)O)F | C14H15F3O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 396 kg | O | H2O
product | (E)-2-(Fluoromethylene)-4-(p-fluorophenyl)butan-1-ol | F\C=C(\CO)/CCC1=CC=C(C=C1)F | C11H12F2O
